US09034880B2
Preparation of 1-(3-(1,2,3,4-tetrahydro-2,8-dimethylpyrido[4,3-b]indol-5-yl)propanoyl)piperidine-4-carboxylic acid (Compound 300)
The title compound is prepared by following Method 8 by using 1-(3-bromopropanoyl)piperidine-4-carboxylic acid, 4-methylphenylhydrazine hydrochloride, triethylamine and N-methyl-4-piperidone.

reactant | 1-(3-bromopropanoyl)piperidine-4-carboxylic acid | BrCCC(=O)N1CCC(CC1)C(=O)O | C9H14BrNO3
reactant | 4-methylphenylhydrazine hydrochloride | Cl.CC1=CC=C(C=C1)NN
reactant | N-methyl-4-piperidone | CN1CCC(CC1)=O | C6H11NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-(3-(1,2,3,4-tetrahydro-2,8-dimethylpyrido[4,3-b]indol-5-yl)propanoyl)piperidine-4-carboxylic acid | CN1CC2=C(N(C=3C=CC(=CC23)C)CCC(=O)N2CCC(CC2)C(=O)O)CC1 | C22H29N3O3
